### PR TITLE
feat: begin small

### PR DESCRIPTION
**Pull request by LeoDog896**
This file is more of a blueprint.

This defines small games and dicotic games, opening a small `proof_wanted` how dicotic games are not part of the surreals, and beginning the proof that they are equivalent to small games.

Notes:
- Cast between ℝ to Game (only for the infinitesimal definition - I am aware that this is not easy by any means.)

### CODE REVIEW

File: CombinatorialGames/Game/Small.lean [hunk 1]
```diff
@@ -0,0 +1,61 @@
...
+
+/-!
+# Small games all around
+
+We define small games, games that are smaller than every Surreal
+and dicotic games, games `G` where both players can move from every nonempty subposition of `G`.
+
+## TODO
+
+- Define infinitesimal games as games x such that ∀ y : ℝ, 0 < y → -y < x ∧ x < y
```
Comment (vihdzp) [inline CombinatorialGames/Game/Small.lean]: It might be worth first adopting a simpler definition: a game `x` is infinitesimal if for every positive short numeric game `y`, `-y < x ∧ x < y`. We can prove this equivalence later.

File: CombinatorialGames/Game/Small.lean [hunk 2]
```diff
@@ -0,0 +1,61 @@
...
+  - (Does this hold for small infinitesimal games?)
+- Prove that dicotic = small
```
Comment (vihdzp) [inline CombinatorialGames/Game/Small.lean]: I'm not a fan of having two equivalent propositions, since that inevitably leads to API duplication. The Lawnmower theorem doesn't look too difficult to prove, perhaps we can have that as a first goal for this file?

File: CombinatorialGames/Game/Small.lean [hunk 3]
```diff
@@ -0,0 +1,61 @@
...
+  simp_rw [dicotic_iff_aux]; rw [DicoticAux]
+
+namespace Dicotic
+
+@[simp]
+protected instance zero : Dicotic 0 := by
+  rw [dicotic_def]
+  simp
+
+proof_wanted lt_numeric (x : IGame) [Dicotic x] (y : IGame) [Numeric y] : Game.mk x < Game.mk y
```
Comment (vihdzp) [inline CombinatorialGames/Game/Small.lean]: You seem to be missing a `0 < y` assumption.

File: CombinatorialGames/Game/Small.lean (hunk 1 above)
Comment (tristan-f-r) [reply CombinatorialGames/Game/Small.lean]: A short game `x` is infinitesimal if it meets those criteria - not a long game.

File: CombinatorialGames/Game/Small.lean [hunk 4]
```diff
@@ -0,0 +1,110 @@
...
+  · suffices z < y by rw [lt_iff_le_not_le] at this; exact this.2
+    have : Dicotic z := of_mem_leftMoves hz
+    exact lt_surreal z y hy
+  · suffices x < z by rw [lt_iff_le_not_le] at this; exact this.2
+    have : Numeric z := Numeric.of_mem_rightMoves hz
+    rcases Numeric.lt_or_equiv_or_gt z 0 with (h | h | h)
+    · exact absurd (h.trans hy) (not_lt_of_gt <| Numeric.lt_rightMove hz)
+    · exact absurd hy (not_lt_of_gt <| (Numeric.lt_rightMove hz).trans_le h.1)
+    · exact lt_surreal x z h
+  · by_cases h : x = 0
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Small.lean]: This `by_cases` section is very finicky, and I believe that it can be meaningfully golfed: just not sure how. (Note: the original paper-and-pencil proof does check if `x = 0` by cases, but it still irks me.)

File: CombinatorialGames/Game/Small.lean [hunk 5]
```diff
@@ -0,0 +1,109 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Tristan Figueroa-Reid
+-/
+import CombinatorialGames.Surreal.Basic
+
+/-!
+# Small games all around
+
+We define dicotic games, games `G` where both players can move from
+every nonempty subposition of `G`. We prove that these games are small, and relate them
```
Comment (vihdzp) [inline CombinatorialGames/Game/Small.lean]: We should stick to a single variable naming convention.

```suggestion
We define dicotic games, games `x` where both players can move from
every nonempty subposition of `x`. We prove that these games are small, and relate them
```

File: CombinatorialGames/Game/Small.lean [hunk 6]
```diff
@@ -0,0 +1,109 @@
...
+to infinitesimals.
+
+## TODO
+
+- Define infinitesimal games as games x such that ∀ y : ℝ, 0 < y → -y < x ∧ x < y
+  - (Does this hold for small infinitesimal games?)
+- Prove that any short game is an infinitesimal (but not vice versa! see 1/ω)
```
Comment (vihdzp) [inline CombinatorialGames/Game/Small.lean]: "see" feels like a weird choice of verb here, since we aren't really redirecting the viewer anywhere.
```suggestion
- Prove that any short game is an infinitesimal (but not vice versa, consider `ω⁻¹`)
```

File: CombinatorialGames/Game/Small.lean [hunk 7]
```diff
@@ -0,0 +1,109 @@
...
+
+namespace IGame
+
+/-! # Dicotic Games -/
+
+private def DicoticAux (x : IGame) : Prop :=
+  (x.leftMoves = ∅ ∧ x.rightMoves = ∅) ∨
+  (x.leftMoves ≠ ∅ ∧ x.rightMoves ≠ ∅ ∧
+    (∀ l ∈ x.leftMoves, DicoticAux l) ∧
+    ∀ r ∈ x.rightMoves, DicoticAux r)
```
Comment (vihdzp) [inline CombinatorialGames/Game/Small.lean]: I think it might be more natural to write this in terms of [`Xor'`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Logic/Basic.html#Xor'). Something like:
```suggestion
  Xor' (x.leftMoves = ∅) (x.rightMoves = ∅) ∧ 
    (∀ l ∈ x.leftMoves, DicoticAux l) ∧ (∀ r ∈ x.rightMoves, DicoticAux r)
```

File: CombinatorialGames/Game/Small.lean [hunk 8]
```diff
@@ -0,0 +1,109 @@
...
+    (x.leftMoves = ∅ ∧ x.rightMoves = ∅) ∨
+    (x.leftMoves ≠ ∅ ∧ x.rightMoves ≠ ∅ ∧
+      (∀ l ∈ x.leftMoves, Dicotic l) ∧
+      ∀ r ∈ x.rightMoves, Dicotic r) := by
+  simp_rw [dicotic_iff_aux]; rw [DicoticAux]
+
+namespace Dicotic
+variable {x y z : IGame}
+
+theorem dicotic_zero_iff [hx : Dicotic x] : x ≠ 0 ↔ x.leftMoves ≠ ∅ ∧ x.rightMoves ≠ ∅ := by
```
Comment (vihdzp) [inline CombinatorialGames/Game/Small.lean]: This is already in the `Dicotic` namespace, so we could call it something like 
```suggestion
theorem eq_zero_iff [hx : Dicotic x] : x ≠ 0 ↔ x.leftMoves ≠ ∅ ∧ x.rightMoves ≠ ∅ := by
```

**Review by vihdzp — CHANGES_REQUESTED** [review]
Some initial remarks.

File: CombinatorialGames/Game/Small.lean (hunk 7 above)
Comment (tristan-f-r) [reply CombinatorialGames/Game/Small.lean]: Am I reading this right? This looks like `x.leftMoves = ∅` xor `x.rightMoves = ∅` and ... which isn't the Dicotic definition.

Comment (vihdzp) [reply CombinatorialGames/Game/Small.lean]: Oh you're right, xor is the negation of the predicate you want. So what about this?
```suggestion
  x.leftMoves = ∅ ↔ x.rightMoves = ∅ ∧ 
    (∀ l ∈ x.leftMoves, DicoticAux l) ∧ (∀ r ∈ x.rightMoves, DicoticAux r)
```

File: CombinatorialGames/Game/Small.lean [hunk 9]
```diff
@@ -0,0 +1,100 @@
...
+  simp_rw [dicotic_iff_aux]; rw [DicoticAux]
+
+namespace Dicotic
+variable {x y z : IGame}
+
+theorem neq_zero_iff [hx : Dicotic x] : x ≠ 0 ↔ x.leftMoves ≠ ∅ ∧ x.rightMoves ≠ ∅ := by
+  rw [dicotic_def] at hx
+  rw [Ne.eq_def, zero_def, IGame.ext_iff, leftMoves_ofSets, rightMoves_ofSets]
+  refine ⟨fun h ↦ ?_, fun h ↦ by simp_all⟩
+  by_cases x.leftMoves = ∅ <;> simp_all
```
Comment (vihdzp) [inline CombinatorialGames/Game/Small.lean]: Two things: 
a) we probably want to prove `x = 0 ↔ x.leftMoves = Ø ∨ x.rightMoves = Ø` first
b) the standard abbreviation for `≠` is `ne`
Here's my suggestion + some golfing:
```suggestion
theorem eq_zero_iff [hx : Dicotic x] : x = 0 ↔ x.leftMoves = ∅ ∨ x.rightMoves = ∅ := by
  rw [dicotic_def] at hx
  simp_all [IGame.ext_iff]

theorem ne_zero_iff [Dicotic x] : x ≠ 0 ↔ x.leftMoves ≠ ∅ ∧ x.rightMoves ≠ ∅ := by
  simpa using eq_zero_iff.not
```

File: CombinatorialGames/Game/Small.lean [hunk 10]
```diff
@@ -0,0 +1,100 @@
...
+  out : DicoticAux x
+
+theorem dicotic_def {x : IGame} : Dicotic x ↔
+    (x.leftMoves = ∅ ↔ x.rightMoves = ∅) ∧
+      (∀ l ∈ x.leftMoves, Dicotic l) ∧ (∀ r ∈ x.rightMoves, Dicotic r) := by
+  simp_rw [dicotic_iff_aux]; rw [DicoticAux]
+
+namespace Dicotic
+variable {x y z : IGame}
+
```
Comment (vihdzp) [inline CombinatorialGames/Game/Small.lean:44]: We should have some API to avoid having to call `dicotic_def` explicitly. Here's my proposal:
```suggestion
theorem mk' (h : x.leftMoves = ∅ ↔ x.rightMoves = ∅)
    (hl : ∀ y ∈ x.leftMoves, Dicotic y) (hr : ∀ y ∈ x.rightMoves, Dicotic y) : Dicotic x :=
  dicotic_def.2 ⟨h, hl, hr⟩
  
theorem leftMoves_eq_empty_iff [hx : Dicotic x] : x.leftMoves = ∅ ↔ x.rightMoves = ∅ :=
  (dicotic_def.1 hx).1

theorem rightMoves_eq_empty_iff [hx : Dicotic x] : x.rightMoves = ∅ ↔ x.leftMoves = ∅ :=
  leftMoves_eq_empty_iff.symm

protected theorem of_mem_leftMoves [hx : Dicotic x] (h : y ∈ x.leftMoves) : Dicotic y :=
  (dicotic_def.1 hx).2.1 y h

protected theorem of_mem_rightMoves [hx : Dicotic x] (h : y ∈ x.rightMoves) : Dicotic y :=
  (dicotic_def.1 hx).2.2 y h
```
We could make do with only one of `leftMoves_eq_empty_iff` and `rightMoves_eq_empty_iff`, but I don't like the asymmetry you get by only keeping one or the other. Maybe that could be resolved by giving this lemma some different name?

File: CombinatorialGames/Game/Small.lean [hunk 11]
```diff
@@ -0,0 +1,100 @@
...
+  rw [dicotic_def, leftMoves_neg, rightMoves_neg] at *
+  refine ⟨by simp_all, fun l hl ↦ ?_, fun r hr ↦ ?_⟩
+  · have h := @Dicotic.neg (-l) (hx.2.2 (-l) <| Set.mem_neg.mp hl)
+    rw [neg_neg] at h
+    exact h
+  · have h := @Dicotic.neg (-r) (hx.2.1 (-r) <| Set.mem_neg.mp hr)
+    rw [neg_neg] at h
+    exact h
+termination_by x
+decreasing_by all_goals simp_all; igame_wf
```
Comment (vihdzp) [inline CombinatorialGames/Game/Small.lean]: Here's some slight golfing (using my suggested API theorems from above):
```suggestion
protected instance neg (x) [Dicotic x] : Dicotic (-x) := by
  rw [dicotic_def, forall_leftMoves_neg, forall_rightMoves_neg]
  refine ⟨by simp [leftMoves_eq_empty_iff], fun y hy ↦ ?_, fun y hy ↦ ?_⟩
  · have := Dicotic.of_mem_rightMoves hy
    exact .neg y
  · have := Dicotic.of_mem_leftMoves hy
    exact .neg y
termination_by x
decreasing_by igame_wf
```

File: CombinatorialGames/Game/Small.lean [hunk 12]
```diff
@@ -0,0 +1,100 @@
...
+
+theorem of_mem_leftMoves [h : Dicotic x] (hy : y ∈ x.leftMoves) : Dicotic y := by
+  cases (dicotic_def.1 h); simp_all
+
+theorem of_mem_rightMoves [h : Dicotic x] (hy : y ∈ x.rightMoves) : Dicotic y := by
+  cases (dicotic_def.1 h); simp_all
+
+theorem lt_surreal (x) [hx : Dicotic x] (y) [hny : Numeric y] (hy : 0 < y) : x < y := by
```
Comment (vihdzp) [inline CombinatorialGames/Game/Small.lean]: This should probably be called something like `lt_of_numeric_of_pos`. Likewise the theorem below can be `lt_of_numeric_of_neg`.

File: CombinatorialGames/Game/Small.lean [hunk 13]
```diff
@@ -0,0 +1,100 @@
...
+    exact h
+termination_by x
+decreasing_by all_goals simp_all; igame_wf
+
+theorem of_mem_leftMoves [h : Dicotic x] (hy : y ∈ x.leftMoves) : Dicotic y := by
+  cases (dicotic_def.1 h); simp_all
+
+theorem of_mem_rightMoves [h : Dicotic x] (hy : y ∈ x.rightMoves) : Dicotic y := by
+  cases (dicotic_def.1 h); simp_all
+
```
Comment (vihdzp) [inline CombinatorialGames/Game/Small.lean:82]:
```suggestion

/-- One half of the **lawnmower theorem**: any dicotic game is smaller than any positive numeric game. -/
```

File: CombinatorialGames/Game/Small.lean [hunk 14]
```diff
@@ -0,0 +1,100 @@
...
+  · by_cases h : x = 0
+    · subst h
+      exact Numeric.lt_iff_exists_le.mp hy
+    · have h := (neq_zero_iff.mp h).2
+      push_neg at h
+      have : h.choose.Dicotic := of_mem_rightMoves h.choose_spec
+      exact .inr ⟨h.choose, h.choose_spec, le_of_lt <| lt_surreal h.choose y hy⟩
+termination_by (x, y)
+decreasing_by igame_wf
+
```
Comment (vihdzp) [inline CombinatorialGames/Game/Small.lean:104]:
```suggestion

/-- One half of the **lawnmower theorem**: any dicotic game is greater than any negative numeric game. -/
```

**Review by vihdzp — COMMENTED** [review]
Some extra comments.

Every `Impartial` game is dicotic, right? Is this still true under our more general definition? If so, can we prove it or leave a `proof_wanted`?

File: CombinatorialGames/Game/Small.lean (hunk 12 above)
Comment (vihdzp) [reply CombinatorialGames/Game/Small.lean]: Here's a somewhat golfed proof. No need to use the axiom of choice to eliminate `Exists` into a `Prop`. And as a rule of thumb, any instance of `rw [lf_iff_exists_le]` in the goal can be replaced by an explicit call to a theorem like `lf_of_rightMove_le` or the like.
```lean 4
theorem lt_of_numeric_of_pos (x) [Dicotic x] {y} [Numeric y] (hy : 0 < y) : x < y := by
  rw [lt_iff_le_not_le, le_iff_forall_lf]
  refine ⟨⟨fun z hz ↦ ?_, fun z hz ↦ ?_⟩, ?_⟩
  · have := Dicotic.of_mem_leftMoves hz
    exact (lt_of_numeric_of_pos z hy).not_le
  · have := Numeric.of_mem_rightMoves hz
    obtain (h | h) := Numeric.le_or_lt z 0
    · cases ((Numeric.lt_rightMove hz).trans_le h).not_lt hy
    · exact (lt_of_numeric_of_pos x h).not_le
  · obtain rfl | h := eq_or_ne x 0
    · exact hy.not_le
    · simp_rw [ne_zero_iff, ← Set.nonempty_iff_ne_empty] at h
      obtain ⟨z, hz⟩ := h.2
      have := Dicotic.of_mem_rightMoves hz
      exact lf_of_rightMove_le (lt_of_numeric_of_pos z hy).le hz
termination_by (x, y)
decreasing_by igame_wf
```

File: CombinatorialGames/Game/Small.lean [hunk 15]
```diff
@@ -0,0 +1,100 @@
...
+theorem surreal_lt (x) [hx : Dicotic x] (y) (hy : Numeric y) (hy : y < 0) : y < x :=
+  IGame.neg_lt_neg_iff.mp <| lt_surreal (-x) (-y) (zero_lt_neg.mpr hy)
```
Comment (vihdzp) [inline CombinatorialGames/Game/Small.lean]: Perhaps a silly golf, but you can do:
```suggestion
theorem lt_of_numeric_of_neg (x) [Dicotic x] {y} [Numeric y] (hy : y < 0) : y < x := by
  have := lt_of_numeric_of_pos (-x) (y := -y); simp_all
```
In any case, the arguments should be fixed. `y` should be implicit, and `hy` should be an instance argument.

File: CombinatorialGames/Game/Small.lean (hunk 4 above)
Comment (vihdzp) [reply CombinatorialGames/Game/Small.lean]: We could have `Dicotic.eq_zero_or_nonempty_leftMoves` and `Dicotic.eq_zero_or_nonempty_rightMoves` as lemmas, then the `by_cases` can be replaced by that.

File: CombinatorialGames/Game/Small.lean [hunk 16]
```diff
@@ -0,0 +1,100 @@
...
+/-!
+# Small games all around
+
+We define dicotic games, games `x` where both players can move from
+every nonempty subposition of `x`. We prove that these games are small, and relate them
+to infinitesimals.
+
+## TODO
+
+- Define infinitesimal games as games x such that ∀ y : ℝ, 0 < y → -y < x ∧ x < y
```
Comment (vihdzp) [inline CombinatorialGames/Game/Small.lean]:
```suggestion
- Define infinitesimal games as games `x` such that `∀ y : ℝ, 0 < y → -y < x ∧ x < y`
```
(bikeshedding: maybe we want to use some other variable name for reals? like `r` perhaps)

File: CombinatorialGames/Game/Small.lean [hunk 17]
```diff
@@ -0,0 +1,100 @@
...
+
+/-! # Dicotic Games -/
+
+private def DicoticAux (x : IGame) : Prop :=
+  (x.leftMoves = ∅ ↔ x.rightMoves = ∅) ∧
+    (∀ l ∈ x.leftMoves, DicoticAux l) ∧ (∀ r ∈ x.rightMoves, DicoticAux r)
+termination_by x
+decreasing_by igame_wf
+
+/-- A game `G` is dicotic if both players can move from every nonempty subposition of `G` -/
```
Comment (vihdzp) [inline CombinatorialGames/Game/Small.lean]: Same as above
```suggestion
/-- A game `x` is dicotic if both players can move from every nonempty subposition of `x`. -/
```

File: CombinatorialGames/Game/Small.lean [hunk 18]
```diff
@@ -0,0 +1,100 @@
...
+## TODO
+
+- Define infinitesimal games as games x such that ∀ y : ℝ, 0 < y → -y < x ∧ x < y
+  - (Does this hold for small infinitesimal games?)
+- Prove that any short game is an infinitesimal (but not vice versa, consider `ω⁻¹`)
+-/
+
+namespace IGame
+
+/-! # Dicotic Games -/
```
Comment (vihdzp) [inline CombinatorialGames/Game/Small.lean]:
```suggestion
/-! ### Dicotic games -/
```

File: CombinatorialGames/Game/Small.lean [hunk 19]
```diff
@@ -0,0 +1,100 @@
...
+
+We define dicotic games, games `x` where both players can move from
+every nonempty subposition of `x`. We prove that these games are small, and relate them
+to infinitesimals.
+
+## TODO
+
+- Define infinitesimal games as games x such that ∀ y : ℝ, 0 < y → -y < x ∧ x < y
+  - (Does this hold for small infinitesimal games?)
+- Prove that any short game is an infinitesimal (but not vice versa, consider `ω⁻¹`)
```
Comment (vihdzp) [inline CombinatorialGames/Game/Small.lean]: Wait, this statement is clearly false: `1` is not infinitesimal! Did you mean, every short *dicotic* game?

Comment (tristan-f-r) [reply CombinatorialGames/Game/Small.lean]: Thanks! Missed that!

**Review by vihdzp — APPROVED** [review]
